US07553840B2
Sixty percent NaH (12 mg, 0.3 mmol) was added to a solution of 2,2,2-trifluoro-1-(2-furan-2-yl-phenyl)-ethanol (55 mg, 0.2 mmol) in 10 ml of anhydrous THF. The mixture was stirred for 20 minutes, after which 4,6-dichloro-pyrimidine (29 mg, 0.2 mmol) was added. The mixture was then heated at 110° C. until the reaction was complete. After cooling, 5 ml of water was added, and ethyl acetate (20 ml) was used to extract the product. The organic layer was dried over sodium sulfate. The solvent was removed by rotovap to give 60 mg of 4-chloro-6-[2,2,2-trifluoro-1-(2-furan-2-yl-phenyl)-ethoxy]-pyrimidine (yield 80%).

reactant | NaH | 0.3 mmol, 12 mg | [H-].[Na+]
reactant | 2,2,2-trifluoro-1-(2-furan-2-yl-phenyl)-ethanol | 0.2 mmol, 55 mg | FC(C(O)C1=C(C=CC=C1)C=1OC=CC1)(F)F | C12H9F3O2
reactant | 4,6-dichloro-pyrimidine | 0.2 mmol, 29 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | water | 5 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-6-[2,2,2-trifluoro-1-(2-furan-2-yl-phenyl)-ethoxy]-pyrimidine | 60 mg, yield 80% | ClC1=NC=NC(=C1)OC(C(F)(F)F)C1=C(C=CC=C1)C=1OC=CC1 | C16H10ClF3N2O2
